US09302991B2
<Step-2>:(R)-2-methyl-N-(1-(6-((2,2,2-trifluoroethyl)amino)pyridin-3-yl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 28% yield (180 mg, colorless oil) from 1-(6-((2,2,2-trifluoroethyl)amino)pyridin-3-yl)ethanone (441 mg, 2.02 mmol, Step-1) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(6-((2,2,2-trifluoroethyl)amino)pyridin-3-yl)ethanone | 2.02 mmol, 441 mg | FC(CNC1=CC=C(C=N1)C(C)=O)(F)F | C9H9F3N2O
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(6-((2,2,2-trifluoroethyl)amino)pyridin-3-yl)ethyl)propane-2-sulfinamide | 28% yield | CC(C)(C)[S@@](=O)NC(C)C=1C=NC(=CC1)NCC(F)(F)F | C13H20F3N3OS
